US04644063
(1RS,2SR)-2-amino-4-methyl-1-phenylpentane-1-ol
(1RS,2SR)-2-(1,3-Dioxo-2-azaindane-2-yl)-4-methyl-1-phenylpentane-1-ol (80.0 g, 247 mmol) was dissolved with heating (50° C.) in ethanol (800 ml), followed by addition of a mixture of 85% hydrazine hydrate (19.0 ml) in ethanol (200 ml). The resulting mixture was heated under reflux for 3 hours and, after cooled, ice-cooled and added with 4N hydrochloric acid (700 ml). The mixture was stirred at room temperature for 30 minutes. Insoluble matter was removed by filtration through cellite and then washed with 4N hydrochloric acid (140 ml). The washing was added to the filtrate and the solution was condensed under reduced pressure to remove the ethanol. A 6N sodium hydroxide solution (570 ml) was added with ice-cooling and the mixture was extracted three times with chloroform. After being dried over sodium sulfate, the organic layer was evaporated to obtain 43.2 g of the intended compound as white crystals (yield: 91%).

reactant | (1RS,2SR)-2-(1,3-Dioxo-2-azaindane-2-yl)-4-methyl-1-phenylpentane-1-ol | 247 mmol, 80.0 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(O)C1=CC=CC=C1)CC(C)C | C20H21NO3
reactant | hydrazine hydrate | 19.0 ml | O.NN
reactant | hydrochloric acid | 4N, 700 ml | Cl | ClH
solvent | ethanol | 800 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-4-methyl-1-phenylpentane-1-ol | 43.2 g, yield: 91% | NC(C(O)C1=CC=CC=C1)CC(C)C | C12H19NO
